US04985419
A suspension of 10-[(2RS)-1-methylamino-2-propyl]-2-phenothiazinecarbonitrile (4.7 g), 1-iodopropane (1.55 cc) and sodium hydrogen carbonate (2 g) in dimethylformamide (47 cc) is heated for 6 hours to a temperature of 140° C. After cooling, the reaction mixture is diluted with ethyl acetate (200 cc), washed with distilled water (4×30 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residual oil (5.2 g) is purified by chromatography on a column (height: 25 cm; diameter: 4 cm) of silica gel (0.04-0.063 mm) with a slight excess pressure of nitrogen (40 kPa), eluting with a mixture (70:30 by volume) (1 liter) of cyclohexane and ethyl acetate and collecting 60-cc fractions. The combined fractions 6 to 14 are concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. 10-[(2RS)-1-(N-Methyl-N-propylamino)-2-propyl]-2-phenothiazinecarbonitrile (4.4 g) is thereby obtained in the form of a yellow oil.

reactant | 10-[(2RS)-1-methylamino-2-propyl]-2-phenothiazinecarbonitrile | 4.7 g | CNCC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N | C17H17N3S
reactant | 1-iodopropane | 1.55 cc | ICCC | C3H7I
reactant | sodium hydrogen carbonate | 2 g | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 47 cc | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 200 cc | C(C)(=O)OCC | C4H8O2
product | 10-[(2RS)-1-(N-Methyl-N-propylamino)-2-propyl]-2-phenothiazinecarbonitrile | 4.4 g | CN(CCC)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N | C20H23N3S
